US05455273
w) trans-N-allyl-N-(4-chlorobenzoyl)-4-[4-(3-hydroxypropyl)methylaminomethylphenyl]cyclohexylamine
from trans-N-allyl-N-(4-chlorobenzoyl)-4-(4-methylaminomethylphenyl)cyclohexylamine and 3-bromo-1-propanol. Oil. Rf value: 0.56 (alumina, methylene chloride/methanol=50:1, v:v).

reactant | trans-N-allyl-N-(4-chlorobenzoyl)-4-(4-methylaminomethylphenyl)cyclohexylamine | C(C=C)N(C(C1=CC=C(C=C1)Cl)=O)[C@@H]1CC[C@H](CC1)C1=CC=C(C=C1)CNC | C24H29ClN2O
reactant | 3-bromo-1-propanol | BrCCCO | C3H7BrO
solvent | methylene chloride methanol | C(Cl)Cl.CO
product | trans-N-allyl-N-(4-chlorobenzoyl)-4-[4-(3-hydroxypropyl)methylaminomethylphenyl]cyclohexylamine | C(C=C)N(C(C1=CC=C(C=C1)Cl)=O)[C@@H]1CC[C@H](CC1)C1=C(C=C(C=C1)CCCO)CNC | C27H35ClN2O2
